US04035499
B. 5,10-dihydro-2-phenylimidazo(1,2-b)isoquinoline
A solution of 2-phenacylisoquinolinium bromide prepared as above (13.1 g) and ammonium acetate (28 g) in glacial acetic acid (36 ml) was heated under reflux for 2 hours. The cooled reaction mixture was poured, with stirring, into water (600 ml). The resultant solid was filtered off and washed well with water. The solid was dissolved in methanol (20 ml), and added dropwise, with stirring, to a solution of sodium hydroxide (1.6 g) in water (100 ml). A further 300 ml of water was added to the suspension, and the granulated solid filtered off, washed well with water, dried, and crystallised from methanol. Yield 2.1 g (21%) m.p. 195°-197°. (Found C 82.8; H 6.0; N 11.4, Required C 82.9; H 5.7; N 11.4).

reactant | 2-phenacylisoquinolinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC2=CC=CC=C2C=C1
reactant | ammonium acetate | 28 g | C(C)(=O)[O-].[NH4+]
reactant | water | 600 ml | O | H2O
solvent | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
product | 5,10-dihydro-2-phenylimidazo(1,2-b)isoquinoline | C1(=CC=CC=C1)C=1N=C2N(CC=3C=CC=CC3C2)C1 | C17H14N2
